US05736520
3,4-Dioxo-5-[((phenylmethoxy)carbonyl)amino]-6-phenylhexanoic Acid
To a solution of 3,4-dioxo-5-[((phenylmethoxy)carbonyl)amino]-6-phenylhexanoic acid ethyl ester (400 mg, 1.0 mmol) in dioxane/H2O (10:1), lithium hydroxide (72 mg, 3.0 mmol) is added. The mixture is stirred for 3 h, the solvents are removed in vacuo and the crude product is used without purification.

reactant | 3,4-dioxo-5-[((phenylmethoxy)carbonyl)amino]-6-phenylhexanoic acid ethyl ester | 1.0 mmol, 400 mg | C(C)OC(CC(C(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O)=O)=O | C22H23NO6
reactant | lithium hydroxide | 3.0 mmol, 72 mg | [OH-].[Li+]
solvent | dioxane H2O | O1CCOCC1.O
product | 3,4-Dioxo-5-[((phenylmethoxy)carbonyl)amino]-6-phenylhexanoic Acid | O=C(CC(=O)O)C(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C20H19NO6
